US09255093B2
A mixture of 5-acetylbenzofuran-2-carbonitrile (64 mg, 0.35 mmol), 3-chloro-4-propylaniline (140 mg, 0.82 mmol) and Ti(OiPr)4 (205 μL, 0.69 mmol) was heated to 50° C. for 3 hr, then 60° C. for 2 hr. The reaction mixture was diluted with 10 mL of DCM, and celite was added to the solution (enough to equal the volume of the mixture). The reaction was quenched with 5 mL of sat. NaHCO3:H2O=1:1, and filtered. The separated organic layer was washed with H2O, brine and dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was dissolved in 1.4 mL of TFE and NaBH4 (15.69 mg, 0.415 mmol) was added. The reaction was stirred at 40° C. for 2 hr. After cooling to room temperature, the reaction mixture was diluted with 50 mL of DCM, which was then washed with H2O, brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel flash chromatography, 100% Heptane-30% Ethyl Acetate/70% Heptane, to give (±) 5-(1-((3-chloro-4-propylphenyl)amino)ethyl)benzofuran-2-carbonitrile (113 mg). LCMS retention time=1.66 minutes (LC method 1); MS (m+1)=339.3.

reactant | 5-acetylbenzofuran-2-carbonitrile | 0.35 mmol, 64 mg | C(C)(=O)C=1C=CC2=C(C=C(O2)C#N)C1 | C11H7NO2
reactant | 3-chloro-4-propylaniline | 0.82 mmol, 140 mg | ClC=1C=C(N)C=CC1CCC | C9H12ClN
reactant | NaBH4 | 0.415 mmol, 15.69 mg | [BH4-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | Ti(OiPr)4 | 0.69 mmol, 205 μL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | (±) 5-(1-((3-chloro-4-propylphenyl)amino)ethyl)benzofuran-2-carbonitrile | 113 mg | ClC=1C=C(C=CC1CCC)NC(C)C=1C=CC2=C(C=C(O2)C#N)C1 | C20H19ClN2O
